US07452893B2
Step 3: trans [3-(2-Oxo-2-p-tolyl-ethoxy)-cyclopentyl]-carbamic acid benzyl ester
To a stirred solution of 10 g of trans [3-(3-phenyl-2-p-tolyl-allyloxy)-cyclopentyl]-carbamic acid benzyl ester in 500 mL of dichloromethane cooled to −78° C. was dispersed a stream of ozone from an ozone generator until a blue color persisted. The excess ozone was purged with nitrogen until the blue color dissipated, and 20 mL of methyl sulfide was added. After warming to room temperature over 30 min, the solution was concentrated under reduced pressure. Chromatography over silica gel eluting with a gradient of 5%-45% ethyl acetate in hexane gave 6.5 g of product as a white crystalline solid: MS (m+1)=368.3; 1H NMR (400 MHz, CDCl3) 7.35 (m, 2H), 7.1 (m, 5H), 7.0 (m, 2H), 5.1 (s, 2H), 4.7 (m, 1H), 4.2 (s, 2H), 4.1 (m, 1H), 2.35 (s, 3H), 2.2 (m, 2H), 1.95 (m, 1H), 1.74 (m, 1H), 1.6 (m, 1H), 1.4 (m, 1H).

reactant | trans [3-(3-phenyl-2-p-tolyl-allyloxy)-cyclopentyl]-carbamic acid benzyl ester | 10 g | C(C1=CC=CC=C1)OC(N[C@@H]1C[C@H](CC1)OCC(=CC1=CC=CC=C1)C1=CC=C(C=C1)C)=O | C29H31NO3
reactant | ozone | O=[O+][O-] | O3
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | trans [3-(2-Oxo-2-p-tolyl-ethoxy)-cyclopentyl]-carbamic acid benzyl ester | 6.5 g | C(C1=CC=CC=C1)OC(N[C@@H]1C[C@H](CC1)OCC(C1=CC=C(C=C1)C)=O)=O | C22H25NO4
